*$
*//-----------------------------------------------------------------------// 
*//   Part No.    : HHXF350ARA151MHA0G
*//   Date        : 2022/09/28
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2022 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT HHXF350ARA151MHA0G_20deg-C 1 2

C1 4 2 1.11e-04
C2 5 2 1.56e-05
C3 6 2 9.38e-06
R1 3 4 9.64e-03
R2 4 5 1.74e-01
R3 5 6 3.50e+00
L1 1 3 3.70e-09

.ENDS
*$
